US05883102
(a) 4-(4-Oxopiperdin-1-ylcarbonyl)benzoic acid ethylene ketal
A solution of methyl 4-(4-oxopiperidinocarbonyl)benzoate ethylene ketal (1.5 g, 4.9 mmol) and lithium hydroxide monohydrate (309 mg, 7.4 mmol) in THF/water (1:1) (50 ml) was stirred for 18 h, then acidified with dilute HCl. The product was extracted into ethyl acetate, and the extracts dried over sodium sulphate and concentrated to leave a white solid (1.4g), MS (+CI) 292 ([M+H]+), 1H NMR (CDCl3) 8.10 (2H, d, J 8.2 Hz), 7.45 (2H, d, J 8.3 Hz), 3.99 (4H, s), 3.86 (2H, br. s), 3.44 (2H, br. s), 1.81 (2H, br. s), 1.65 (2H, br. s)

reactant | methyl 4-(4-oxopiperidinocarbonyl)benzoate ethylene ketal | 4.9 mmol, 1.5 g | C1COC(C2=CC=C(C=C2)C(=O)N2CCC(CC2)=O)(OC)O1 | C16H19NO5
reactant | lithium hydroxide monohydrate | 7.4 mmol, 309 mg | O.[OH-].[Li+]
reactant | HCl | Cl | ClH
solvent | THF water | 50 ml | C1CCOC1.O
product | 4-(4-Oxopiperdin-1-ylcarbonyl)benzoic acid ethylene ketal | 1.4g | C1COC(C2=CC=C(C=C2)C(=O)N2CCC(CC2)=O)(O)O1 | C15H17NO5
